US08071592B2
(b) Phenylmethyl [((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]Carbamate
Phenylmethyl {[(3R,4S)-4-hydroxy-3-pyrrolidinyl]methyl}carbamate (840 mg, 3.35 mmol) and [7-(methyloxy)-2-oxo-1(2H)-quinolinyl]acetaldehyde (663 mg, 3.05 mmol) were combined in anhydrous DCM (10 ml) and anhydrous MeOH (2 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 1 h then sodium triacetoxyborohydride (2.03 g, 9.12 mmol) was added and stirred overnight. The reaction mixture was concentrated and the title compound was obtained as a pale yellow oil (1 g, 71%) after column chromatography (90:10:1: DCM:MeOH:NH4OH).

reactant | Phenylmethyl {[(3R,4S)-4-hydroxy-3-pyrrolidinyl]methyl}carbamate | 3.35 mmol, 840 mg | O[C@H]1[C@H](CNC1)CNC(OCC1=CC=CC=C1)=O | C13H18N2O3
reactant | [7-(methyloxy)-2-oxo-1(2H)-quinolinyl]acetaldehyde | 3.05 mmol, 663 mg | COC1=CC=C2C=CC(N(C2=C1)CC=O)=O | C12H11NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 9.12 mmol, 2.03 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 ml | CO | CH4O
product | Phenylmethyl [((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]Carbamate | O[C@H]1[C@H](CN(C1)CCN1C(C=CC2=CC=C(C=C12)OC)=O)CNC(OCC1=CC=CC=C1)=O | C25H29N3O5
